US08445684B2
To a solution of (E)-butyl 3-(1H-pyrrol-3-yl)acrylate (2.0 g, 10.4 mmol) in 50 mL of THF was added Pd (10% on activated carbon; 0.50 g). The solution was deoxygenated under vacuum, and H2 was introduced to the reaction flask from a balloon. The process was repeated three times, and the reaction mixture was stirred for 4 h at room temperature. The mixture was filtered through celite, and the filtrate was evaporated under reduced pressure to yield butyl 3-(1H-pyrrol-3-yl)propionate (2.0 g, 99%) as a light-yellow oil. LC-MS (ESI) m/z 196 (M+H+).

reactant | (E)-butyl 3-(1H-pyrrol-3-yl)acrylate | 10.4 mmol, 2.0 g | N1C=C(C=C1)/C=C/C(=O)OCCCC | C11H15NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Pd | 0.50 g | [Pd] | Pd
product | butyl 3-(1H-pyrrol-3-yl)propionate | 2.0 g, 99% | N1C=C(C=C1)CCC(=O)OCCCC | C11H17NO2
